US04182773
2-(5-hydroxypentyl)-3-oxo-cyclopentane-carbonitrile
102 g of 2-(5-acetoxypentyl)-3-oxo-cyclopentane-carbonitrile were stirred for 16 hours at room temperature in 1 l of methanol with 5 ml of concentrated sulfuric acid, 10 g of NaHCO3 were added, the solvent was concentrated under reduced pressure, the oily residue was absorbed in acetic acid ester, washed with water and concentrated.

reactant | 2-(5-acetoxypentyl)-3-oxo-cyclopentane-carbonitrile | 102 g | C(C)(=O)OCCCCCC1C(CCC1=O)C#N | C13H19NO3
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | NaHCO3 | 10 g | C(=O)(O)[O-].[Na+]
solvent | methanol | 1 l | CO | CH4O
product | 2-(5-hydroxypentyl)-3-oxo-cyclopentane-carbonitrile | OCCCCCC1C(CCC1=O)C#N | C11H17NO2
